US05635527
t-Butyl 4-nitrophenoxyacetate (19.3 g, 76.0 mmol) was dissolved in ethanol (100 ml) and 10% palladium-carbon (1.0 g) was added. The mixture was stirred at room temperature for 18 hours under a hydrogen atmosphere. The reaction mixture was filtrated and low boiling matters were distilled away from the filtrate under reduced pressure to give 16.8 g of t-butyl 4-aminophenoxyacetate as a pale-brown solid (99%).

reactant | t-Butyl 4-nitrophenoxyacetate | 76.0 mmol, 19.3 g | [N+](=O)([O-])C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H15NO5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | t-butyl 4-aminophenoxyacetate | 16.8 g, 99% | NC1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C12H17NO3
